US08039493B2
In analogy to example 13, step 1, 5-bromothiophene-2-carboxaldehyde was reacted with isobutylamine and sodium borohydride in methanol to give (5-bromo-thiophen-2-ylmethyl)-isobutyl-amine as a colorless oil.

reactant | 5-bromothiophene-2-carboxaldehyde | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | isobutylamine | C(C(C)C)N | C4H11N
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | (5-bromo-thiophen-2-ylmethyl)-isobutyl-amine | BrC1=CC=C(S1)CNCC(C)C | C9H14BrNS
